US09238639B2
Methyl(4-cyano-6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate
To a mixture of methyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-4-formyl-1-benzothiophen-3-yl)acetate (100 mg), THF (5 mL) and water (5 mL) was added hydroxylamine-O-sulfonic acid (45.9 mg) at room temperature, and the mixture was refluxed for 48 h. The suspension was diluted with EtOAc, and TEA (1 mL) was added to the mixture. The mixture was refluxed for 1 h. The mixture was poured into water at room temperature and extracted with EtOAc. The organic layer was separated, washed successively with water and brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/hexane) to give the title compound (96 mg).

reactant | methyl(6-((2,6-dimethylpyridin-3-yl)methoxy)-4-formyl-1-benzothiophen-3-yl)acetate | 100 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC=2C(=NC(=CC2)C)C)C=O)=O | C20H19NO4S
reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | water | 5 mL | O | H2O
reactant | hydroxylamine-O-sulfonic acid | 45.9 mg | NOS(=O)(=O)O | H3NO4S
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | Methyl(4-cyano-6-((2,6-dimethylpyridin-3-yl)methoxy)-1-benzothiophen-3-yl)acetate | 96 mg | COC(CC1=CSC2=C1C(=CC(=C2)OCC=2C(=NC(=CC2)C)C)C#N)=O | C20H18N2O3S
